US08937082B2
Nilotinib base (0.300 g, 0.57 mmol) was dissolved in TFE (2 mL) at 40° C. to obtain a mixture. The mixture was stirred and added to a solution of 2-chloromandelic acid (0.106 g, 0.57 mmol) in TFE (1 mL) at 40° C. Stirring of the resulting clear solution was continued for about 4 h at 40° C. and the solution was subsequently cooled to 5° C. The mixture was kept at 5° C. overnight and then methyl tert-butyl ether (MTBE) (1.5 v/v) was added to the mixture at room temperature, leading to precipitation. The precipitate was filtered to give a white solid of Nilotinib 2-chloromandelate form I.

reactant | Nilotinib | 0.57 mmol, 0.300 g | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F | C28H22F3N7O
reactant | 2-chloromandelic acid | 0.57 mmol, 0.106 g | ClC1=C(C(C(=O)O)O)C=CC=C1 | C8H7ClO3
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
product | Nilotinib 2-chloromandelate | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F.ClC1=C(C(C(=O)[O-])O)C=CC=C1 | InChI=1S/C28H22F3N7O.C8H7ClO3/c1-17-5-6-19(10-25(17)37-27-33-9-7-24(36-27)20-4-3-8-32-14-20)26(39)35-22-11-21(28(29,30)31)12-23(13-22)38-15-18(2)34-16-38;9-6-4-2-1-3-5(6)7(10)8(11)12/h3-16H,1-2H3,(H,35,39)(H,33,36,37);1-4,7,10H,(H,11,12)/p-1
